* source LB8
C_C1         0 VOUT1  1u  TC=0,0 
R_R1         VIN VOUT1  1.59k TC=0,0 
V_V1         VIN 0  AC 1
+SIN 0 2.5 0 0 0 0
C_C3         VOUT2 VIN  1n  TC=0,0 
R_R3         0 VOUT2  1.59k TC=0,0 
